US08859571B2
To a solution of N-methyl-4-(methylthio)-3-nitrobenzenesulfonamide (1.0 g, 3.81 mmol) in 10 mL of ethanol and 10 mL of NH4Cl, zinc dust (2.5 g, 3.81 mmol) was added. The reaction mixture was stirred overnight at room temperature. The mixture was then filtered and diluted with ethyl acetate and water. The organic phase was separated, washed with water and brine, dried over MgSO4, filtered and concentrated to afford 3-amino-N-methyl-4-(methylthio)benzenesulfonamide (0.500 g, 56%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ 7.06 (d, J=8.03 Hz, 1H), 6.86 (s, 1H), 6.67-6.76 (m, 1H), 5.28 (br. s., 2H), 2.17 (s, 3H), 2.21 (s, 3H); MS (m/z) 232.7 (M+H+)

reactant | N-methyl-4-(methylthio)-3-nitrobenzenesulfonamide | 3.81 mmol, 1.0 g | CNS(=O)(=O)C1=CC(=C(C=C1)SC)[N+](=O)[O-] | C8H10N2O4S2
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | NH4Cl | 10 mL | [NH4+].[Cl-]
catalyst | zinc | 3.81 mmol, 2.5 g | [Zn] | Zn
product | 3-amino-N-methyl-4-(methylthio)benzenesulfonamide | 0.500 g, 56% | NC=1C=C(C=CC1SC)S(=O)(=O)NC | C8H12N2O2S2
